Name:  ___.                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Lipitor / Lisinopril / Iodine / Paper Tape
 
Attending: ___
 
Chief Complaint:
shortness of breath
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ with a cardiac history significant for 4 vessel CABG, CHF 
with an EF of 20%, HTN, DM and dyslipidemia admitted for further 
management of her CHF. She had been recently discharged after 
admission for CHF exacerbation. She was placed on Furosemide 120 
mg BID which seemed to be doing well for her, but over the last 
2 days or so, she has had increasing SOB and DOE. She has been 
unable to walk more than a few steps before she gets very short 
of breath. She also has noted some increased ___ swelling as well 
as increase in the size of her neck veins. She denies any 
dietary indiscretion, and states that she has been eating all 
low salt things. She denies any CP, fevers, chills, cough, 
diarrhea, constipation, dysuria, or hematuria. She says her 
urination amount has been about stable. She has no other 
complaints.  
.  
She went to see her PCP, and was very dyspneic so was referred 
to the ED for further management. In the ED, her vitals were 
96.3, 77, 104/61, 20, 98% 2L. She was given 80 mg IV lasix with 
some UOP. She was then admitted to ___ for further management 
of her CHF. CXR was reportedly unchanged from prior.  
.  
On review of systems, she denies any prior history of stroke, 
TIA, deep venous thrombosis, pulmonary embolism, bleeding at the 
time of surgery, myalgias, hemoptysis, black stools or red 
stools. She denies recent fevers, chills or rigors. She denies 
exertional buttock or calf pain. All of the other review of 
systems were negative.  
.  
Cardiac review of systems is notable for absence of chest pain, 
paroxysmal nocturnal dyspnea, orthopnea, palpitations, syncope 
or presyncope.  

 
Past Medical History:
1. CAD s/p 4v CABG in ___ with LIMA-LAD, SVG-Diag (known
occluded), SVG-OM1, and SVG-RCA; non-sustained VT on tele s/p
CABG, had intervention to the LIMA-LAD anastamosis in ___ with
Cypher stent at the anastomosis; cath'd most recently in ___
with instent restenosis of LIMA-LAD prior Cypher stent that was 
successfully treated with Taxus stent.
2. DM2 since ___
3. Hypercholesterolemia
4. Osteoarthritis: b/l shoulder, knee arthritis with
intermittent effusions, RF +; also DJD of both knees and L
thumb, s/p TKR of L knee ___. Dyspnea on exertion x years, followed by cardiology and
pulmonology, thought to be most likely related to ischemic
cardiomyopathy and CAD
6. CHF (EF ___. 1+ MR, 1+TR. Small atrial secundum
defect
7. Hypertension
8. Asthma
9. Uterine fibroids, has had ___ spotting, received
HRT
10. History of occult blood positive stool
11. Myelodysplastic syndrome
12. Cataracts
13. ICD
.
1. CARDIAC RISK FACTORS: Diabetes, Dyslipidemia, Hypertension
.
2. CARDIAC HISTORY:
-CABG: ___ with LIMA-LAD, SVG-Diag (known occluded), SVG-OM1, 
and SVG-RCA
-PERCUTANEOUS CORONARY INTERVENTIONS: ___ - Instent restenosis 
of LIMA-LAD stent successfully treated with re-stenting;
___ - Successful PTCA and stenting of the mid LAD immediately 
after the insertion of the LIMA.
- ICD: placed ___ 
 
Social History:
___
Family History:
Mother had DM and CAD, but died at ___ from lung CA. Father died 
of an accidental death, but had a h/o CAD.
 
Physical Exam:
VS: 96.2 103/70 78 18 96%2L  
GENERAL: Well-appearing, NAD. Oriented x3. Mood, affect 
appropriate.  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. No xanthalesma.  

NECK: Supple with JVP to ears bilaterally  
CARDIAC: PMI located in ___ intercostal space, midclavicular 
line. RR, normal S1, S2. II/VI systolic murmur heard best at 
left upper sternal border. No thrills, lifts. + S4.  
LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. CTAB, mild expiratory 
wheezes bilaterally. minimal crackles at bases  
ABDOMEN: Soft, NTND. No HSM or tenderness.  
EXTREMITIES: 2+ BLE edema.  
SKIN: + stasis dermatitis. No ulcers or xanthomas.  
PULSES:  
Right: DP 2+  
Left: DP 2+  

 
Pertinent Results:
___ U/S: IMPRESSION: No evidence of deep vein thrombosis in the 
right leg.
CXR: Stable moderate cardiomegaly without evidence of acute 
intrathoracic process. 

IMPRESSION: Stable moderate cardiomegaly without evidence of 
acute 
intrathoracic process 

EKG: Unchanged from baseline, RBBB with left ant fascicular 
block, old ant infarct and ST depressions in the precordial 
leads, NSR

CBC:
___ 06:10PM BLOOD WBC-3.7* RBC-UNABLE TO  Hgb-10.5* 
Hct-34.0* MCV-UNABLE TO  MCH-UNABLE TO  MCHC-33.4 RDW-UNABLE TO  
Plt ___
___ 05:25AM BLOOD WBC-2.3* RBC-UNABLE TO  Hgb-8.8* 
Hct-30.5* MCV-UNABLE TO  MCH-UNABLE TO  MCHC-34.0 RDW-UNABLE TO  
Plt ___
___ 06:10PM BLOOD Neuts-37* Bands-2 ___ Monos-19* 
Eos-0 Baso-0 ___ Metas-2* Myelos-0 Promyel-1* Blasts-9* 
NRBC-280*

chemistries:
___ 06:10PM BLOOD Glucose-192* UreaN-64* Creat-2.2* Na-135 
K-3.7 Cl-96 HCO3-22 AnGap-21*
___ 05:25AM BLOOD Glucose-156* UreaN-73* Creat-2.1* Na-134 
K-3.3 Cl-94* HCO3-24 AnGap-19

___ 06:10PM BLOOD Calcium-9.0 Phos-3.3 Mg-2.5
___ 05:25AM BLOOD Mg-2.0

cardiac enzymes:
___ 06:10PM BLOOD CK(CPK)-45
___ 05:25AM BLOOD CK(CPK)-52
___ 05:00PM BLOOD CK(CPK)-100
___ 01:25AM BLOOD CK(CPK)-65
___ 05:20AM BLOOD CK(CPK)-63
___ 06:14AM BLOOD CK(CPK)-35

___ 06:10PM BLOOD cTropnT-0.07*
___ 05:25AM BLOOD CK-MB-NotDone cTropnT-0.20*
___ 05:00PM BLOOD CK-MB-13* MB Indx-13.0* cTropnT-0.65*
___ 01:25AM BLOOD CK-MB-NotDone cTropnT-0.75*
___ 05:20AM BLOOD CK-MB-NotDone cTropnT-0.68*
___ 06:14AM BLOOD CK-MB-NotDone cTropnT-0.45*

Lipid Panel:
___ 05:25AM BLOOD Triglyc-139 HDL-10 CHOL/HD-14.0 
LDLcalc-102

Digoxin Levels:
___ 05:25AM BLOOD Digoxin-1.4
___ 06:08AM BLOOD Digoxin-1.3
___ 05:20AM BLOOD Digoxin-1.0
___ 05:25AM BLOOD Digoxin-0.8*
 
Brief Hospital Course:
# SOB: Has chronic systolic heart failure (EF 20%) Likely due to 
CHF exacerbation which patient has been admitted for multiple 
times. Precipitating factor likely nutrional and fluid 
restriction non-compliance (see disposition at end of discharge 
___. Unlikely ischemia as had no EKG changes, no arrythmias 
on telemetry, and no evidence of infection such as UTI or PNA. 
Hypervolemic on exam. Patient was diuresed with a lasix gtt drip 
and was negative ___ L and down ___ kg in weight prior to 
disscharge. Her beta blocker was continued and imdur was added.
Her digoxin was discontinued after supratherapeutic digoxin 
level was discovered, and was restarted on discharge on a 
___ schedule. Nutriton consult was obtained 
and patient was given information on sodium and fluid restricted 
diets. Kept daily weights, kept on sodium and fluid restricted 
diet and strict Is and Os. Discharged on torsamide 40 mg PO BID. 
On discharge, she was no orthopnic or SOB and satting well on 
room air.

# CAD: Denies chest pain. Unlikely ACS, as she no significant 
EKG changes from previous. Her cardiac enzymes were likely 
elevated in the setting of CHF resulting in mild demand ischem 
and chronic renal failure. Patient has had similar tropnin 
elevation on previous admissions for CHF exacerbations. She was 
continued on ASA, beta blocker, imdur, and plavix. She has an 
allergy to lipitor, but her lipid panel showed 
hypertriglyceridemia and LDL not at goal and so she was started 
on pravastatin, which she tolerated well.   

#. Hypotension - pt runs in SBPs of ___, likely in setting of 
her chronic systolic heart failure. continued BB, ACEI, imdur 
with lower BP hold parameters.  
 
# Myelofibrosis: Patient had elevated nucleated RBCs on her 
blood smear. Heme-onc followed patient while in house. Her 
danazol was stopped during this hospital admission. Patient also 
had some issues with bleeding from heparin SQ and some 
associated mild thrombocytopenia (platelets 120s => 100s), so it 
was discontinued and she was switched to pneumoboots. Receives 
Aranesp 25 mcg qweekly, last dose ___. She will follow in 
outpatient ___ clinic for her Aranesp injections  

# Lower extremity edema: R > L lower leg edema, likely chronic 
in setting of SVG removal from R leg. No recent travel. No 
evidence of DVT on LENIS.  

#. Asthma - continued albuterol and fluticasone and tiotroprium. 
 

#. Hyperlipidemia - started on pravastatin which was tolerated 
well.

#. Diabetes - diet controlled with diabetic/cardiac diet. HISS 
not required for this patient.

# Disposition: Patient was discharged to home with many 
medication changes, including medications directed towards 
improving her CHF treatment (imdur, torsamide, digoxin regimen 
change) and had follow up with multiple providers. When nursing 
was doing discharge preparations for the patient in the 
afternoon, patient was reportedly angry that she could not be 
discharged at the time she was seen by the medical team in the 
morning, even though it was repeatedly explained to her that her 
discharge paperwork and medications needed to be organized and 
that this would require some time. Per RN report, patients's 
husband demanded that she remove the IV. RN removed IV with 
strict instructions for patient to remain in room so she could 
return with medications and discharge instructions. RN returned 
to room 15 minutes later to find that patient and family had 
left without discharge instructions or prescriptions for her 
medications. RN informed discharging MD immediately who called 
patient multiple times at her home phone number at that time and 
the day after discharge, instructing her on the answering 
machine to return to the hospital for her discharge 
instructions. MD's calls were not returned. Her prescriptions 
were called into her ___ pharmacy listed in OMR, and this 
was relayed to patient through phone messages at her home phone. 
The sudden departure of the patient from the hospital without 
discharge instructions lends credence to the fact that her 
multiple admissions CHF exacerbations may be due in part to 
medical non-compliance. In patient RN and MD staff made multiple 
attempts to contact patient and have been unsuccessful to date 
at the time of signing of this discharge summary. Patient does 
have ___ at home, but should follow up with her outpatient 
cardiologist for medical reconciliation as soon as possible to 
prevent future hospitalizations.
 
Medications on Admission:
albuterol 2 puffs q4h prn  
plavix 75mg daily  
danazol 200mg 2 capsules BID  
epoetin  
fluticasone 110mcg 2puffs BID  
furosemide 120mg BID  
metoprolol succinate 25mg daily  
nitro 0.3mg prn  
aspirin 325mg daily  
MVI  
trazodone 25mg qhs  
digoxin 125 mcg qod  
spiriva 18mcg capsule i inh daily  
docusate sodium 100mg bid  

 
Discharge Medications:
1. Digoxin 125 mcg Tablet Sig: One (1) Tablet PO ___, 
___.  
2. Torsemide 20 mg Tablet Sig: Two (2) Tablet PO twice a day.
Disp:*120 Tablet(s)* Refills:*2*
3. Metoprolol Succinate 25 mg Tablet Sustained Release 24 hr 
Sig: One (1) Tablet Sustained Release 24 hr PO DAILY (Daily).  
4. Aspirin 325 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
5. Clopidogrel 75 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
6. Tiotropium Bromide 18 mcg Capsule, w/Inhalation Device Sig: 
One (1) Cap Inhalation DAILY (Daily).  
7. Fluticasone 110 mcg/Actuation Aerosol Sig: Two (2) Puff 
Inhalation BID (2 times a day).  
8. Isosorbide Mononitrate 30 mg Tablet Sustained Release 24 hr 
Sig: One (1) Tablet Sustained Release 24 hr PO DAILY (Daily).
Disp:*30 Tablet Sustained Release 24 hr(s)* Refills:*2*
9. Pravastatin 40 mg Tablet Sig: One (1) Tablet PO at bedtime.
Disp:*30 Tablet(s)* Refills:*2*
10. Albuterol 90 mcg/Actuation Aerosol Sig: Two (2) Puff 
Inhalation Q4H (every 4 hours) as needed for wheezing.  
11. Multivitamin     Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
12. Nitroglycerin 0.3 mg Tablet, Sublingual Sig: One (1)  
Sublingual every 5 minutes for three doses as needed for chest 
pain.  
13. Trazodone 50 mg Tablet Sig: 0.5 Tablet PO HS (at bedtime) as 
needed for insomnia.  
14. Epoetin Alfa  Injection
15. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO twice 
a day as needed.  
16. Aranesp SureClick -Polysorbate 25 mcg/0.42 mL Pen Injector 
Sig: ___ (25) mcg Subcutaneous once a week: administered 
by your outpatient hematologist.  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
1' diagnosis 
Shortness of Breath 
 
2' diagnosis 
Chronic Systolic and Diastolic Heart Failure 
Coronary Artery Disease 
Hypertension 
Diabetes Mellitus 

 
Discharge Condition:
afebrile, chest pain free, and hemodynamically stable on 
discharge

 
Discharge Instructions:
Weigh yourself every morning, call MD if weight > 3 lbs.
Adhere to 2 gm sodium diet
Fluid Restriction: < 1000 ml per day

You were admitted with a diagnosis of congestive heart failure 
exacerbation. You were diuresed with Lasix and Diuril. Your 
fluid status improved, and you were discharged in good health.

The following changes were made in your medications:
STOP: Lasix 120 mg by mouth twice a day
START: Torsamide 40 mg by mouth twice a day
CHANGE: Digoxin 125 mcg by mouth every other day TO
        Digoxin 125 mcg by mouth ___
START: Pravastatin 40 mg by mouth daily
START: Imdur 30 mg by mouth daily
STOP: Danazol 200 mg by mouth twice a day
START: Aranesp injections per your outpatient hematologist

Please return to the emergency department or call your primary 
care physician or cardiologist if you experience any of the 
following symptoms: chest pain, increasing shortness of breath, 
nausea, vomiting, sweating, light headedness, loss of 
consciousness, falls with injury, increased swelling in your 
legs, or any other symptoms not listed here that are concerning 
enough to warrant physician ___.
 
Followup Instructions:
___